US05220042
By using procedures similar to those described in the above-mentioned Example 30 (2), except that 1-bromo-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentane was used in place of 1-bromo-7-[2,5-dimethoxy-3,6-bis methoxymethoxy)phenyl]heptane, there was obtained 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-(6-undecynyl)benzene. Colorless oily substance.

reactant | 1-bromo-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentane | BrCCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C17H27BrO6
solvent | heptane | CCCCCCC | C7H16
product | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-(6-undecynyl)benzene | COC1=C(C(=C(C(=C1)OCOC)OC)CCCCCC#CCCCC)OCOC | C23H36O6
